US06713650B2
To a solution of 1,3,3-trimethylbicyclo[2.2.1]hept-2-ylamine (5 g, 26.3 mmol) in methylene chloride (20 ml) and triethylamine (4 ml) was added chloroacetyl chloride (2.1 ml, 26.4 mmol) dropwise. The resulting solution was stirred for 12 hours, then the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and water, the organic layer washed with brine, and dried over magnesium sulfate. The ethyl acetate solution was absorbed onto silica gel, which was eluted with 10% ethyl acetate/hexane, to yield 2-chloro-N-(1,3,3-trimethylbicyclo[2,2,1]hept-2-yl)acetamide as a white solid.

reactant | 1,3,3-trimethylbicyclo[2.2.1]hept-2-ylamine | 26.3 mmol, 5 g | CC12C(C(C(CC1)C2)(C)C)N | C10H19N
reactant | chloroacetyl chloride | 26.4 mmol, 2.1 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 2-chloro-N-(1,3,3-trimethylbicyclo[2,2,1]hept-2-yl)acetamide | ClCC(=O)NC1C2(CCC(C1(C)C)C2)C | C12H20ClNO
